US07456218B2
tert-butyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate
To a solution of tert-butyl 3-{4-[(4′-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (2.38 g, 4.35 mmol) in tetrahydrofuran (24 mL) was added tetrabutylammonium fluoride (1 M tetrahydrofuran solution, 4.79 mmol, 4.79 mL) at room temperature with stirring and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give the title compound (1.69 g, yield 90%) as a colorless oil.

reactant | tert-butyl 3-{4-[(4′-{[tert-butyl(dimethyl)silyl]oxy}-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 4.35 mmol, 2.38 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)C | C34H46O4Si
reactant | tetrabutylammonium fluoride | 4.79 mmol, 1 M, 4.79 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.69 g, yield 90% | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)C | C28H32O4
